US07429665B2
2-(2-Chloro-pyridin-4-yl)-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone
Following the procedure for the preparation of 2-pyridin-4-yl-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone but substituting 2-chloro-4-methyl pyridine provided the title compound. MS: (M+H m/z=389.0).

reactant | 2-pyridin-4-yl-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone | N1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C23H18N2O2
reactant | 2-chloro-4-methyl pyridine | ClC1=NC=CC(=C1)C | C6H6ClN
product | 2-(2-Chloro-pyridin-4-yl)-1-[4-(quinolin-2-ylmethoxy)-phenyl]-ethanone | ClC1=NC=CC(=C1)CC(=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C23H17ClN2O2
